US07696215B2
A solution of iodine monochloride (0.9 g) in glacial AcOH (1.7 ml) was added dropwise over 15 minutes to a stirred solution of 2-aminoisophthalic acid (1 g) in glacial AcOH (6.9 ml) at room temperature. The mixture was stirred for 2 hours and then poured into water (70 ml). The resultant orange solid was isolated by filtration, washed with water, diluted with MeOH and concentrated to yield 2-amino-5-iodoisophthalic acid (1.48 g); Mass Spectrum: M+H+ 308.

reactant | iodine monochloride | 0.9 g | ICl | ClI
reactant | 2-aminoisophthalic acid | 1 g | NC1=C(C(=O)O)C=CC=C1C(=O)O | C8H7NO4
reactant | water | 70 ml | O | H2O
solvent | AcOH | 1.7 ml | CC(=O)O | C2H4O2
solvent | AcOH | 6.9 ml | CC(=O)O | C2H4O2
product | 2-amino-5-iodoisophthalic acid | 1.48 g | NC1=C(C(=O)O)C=C(C=C1C(=O)O)I | C8H6INO4
